US09108938B2
To a solution of 2-(1,1-difluoroethyl)pyrimidine-5-carbaldehyde (166 mg, 0.270 mmol, 28%) in THF (4 ml) was added TMS cyanide (79 mg, 0.1 ml, 0.8 mmol) and zinc iodide (2.2 mg, 6.89 μmol). The mixture was stirred for 15 min. To the mixture was added 4,4-difluoropiperidine hydrochloride (62 mg, 0.393 mmol) and DIPEA (37 mg, 0.05 ml, 0.286 mmol). The resultant mixture was stirred at room temperature overnight. The volatiles were removed by rotary evaporator and the reaction was purified by column chromatography on silica gel (petroleum ether: EtOAc=1:0 to 0:1) to afford 2-(2-(1,1-difluoroethyl)pyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)acetonitrile (as a 1:1 mixture of nitrile and aldehyde) (39 mg, 24% yield). 1H NMR (CDCl3 500 MHz): δ 9.03 (s, 2H), 5.02 (s, 1H), 2.75 (m, 4H), 2.10 (m, 6H).

reactant | 2-(1,1-difluoroethyl)pyrimidine-5-carbaldehyde | 0.270 mmol, 166 mg | FC(C)(F)C1=NC=C(C=N1)C=O | C7H6F2N2O
reactant | TMS cyanide | 0.8 mmol, 0.1 ml, 79 mg | [Si](C)(C)(C)C#N | C4H9NSi
reactant | 4,4-difluoropiperidine hydrochloride | 0.393 mmol, 62 mg | Cl.FC1(CCNCC1)F
reactant | DIPEA | 0.286 mmol, 0.05 ml, 37 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | zinc iodide | 6.89 μmol, 2.2 mg | [I-].[Zn+2].[I-]
product | 2-(2-(1,1-difluoroethyl)pyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)acetonitrile | 24% yield | FC(C)(F)C1=NC=C(C=N1)C(C#N)N1CCC(CC1)(F)F | C13H14F4N4
